US05656629
A mixture of 4-diethylaminomethyl benzoic acid hydrochloride (360 mg, 1.5 mmol), N,N'-carbonyldiimidazole (264 mg, 1.5 mmol) and dioxane (20 ml) was heated on an oil bath for 1 hour. The reaction mixture was cooled to room temperature and 1-cyclopentyl-3-ethyl-6-(4-hydroxyphenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one (500 mg, 105 mmol) and dioxane (10 ml) were added and the reaction mixture was heated at 100° C. overnight. The reaction mixture was cooled, the solvent was stripped and then water and ethyl acetate were added. The ethyl acetate layer was separated, then washed with 2N HCl (4×150 ml). The aqueous layers were combined, treated with concentrated NH4OH and then extracted with ethyl acetate (2×). The ethyl acetate layer was washed with brine, dried over MgSO4, filtered and stripped to afford crude product. The crude product was combined with the crude product from a similar experimental run and the mixture was recrystallized from ether to afford 0.46 g of 1-cyclopentyl-3-ethyl-6-[4-[4-(diethylaminomethyl)phenylcarbonyloxy]phenylmethyl]pyrazolo[3,4-d]pyrimidin-4-one, m.p. 143°-145° C.

reactant | 4-diethylaminomethyl benzoic acid hydrochloride | 1.5 mmol, 360 mg | Cl.C(C)N(CC)CC1=CC=C(C(=O)O)C=C1
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | 1-cyclopentyl-3-ethyl-6-(4-hydroxyphenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | 105 mmol, 500 mg | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)O)CC | C19H22N4O2
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-cyclopentyl-3-ethyl-6-[4-[4-(diethylaminomethyl)phenylcarbonyloxy]phenylmethyl]pyrazolo[3,4-d]pyrimidin-4-one | 0.46 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)OC(=O)C2=CC=C(C=C2)CN(CC)CC)CC | C31H37N5O3
